US07932246B2
N-Hydroxy 2-(6-{(naphthalene-2-sulfonyl)-[2-(2-oxopyrrolidin-1-yl)ethyl]amino}-3-aza-bicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide—Example 48
To N-(1-isobutoxyethoxy) 2-(6-{(naphthalene-2-sulfonyl)-[2-(2-oxopyrrolidin-1-yl)ethyl]amino}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide was added TFA:DCM:MeOH (3.5 ml, 1:2:2 mixture). The solution was stirred overnight, and then concentrated in vacuo. The product was purified by reverse phase HPLC to yield the title compound as a white solid (18 mg, 11%). LCMS Purity >98%, m/z 537 [M+H]+, 1H NMR (300 MHz, d6-DMSO) 1.83-1.95 (3H, m), 2.17 (2H, t, J=8.2 Hz), 2.22-2.26 (2H, m), 3.36-3.45 (6H, m), 3.52-3.59 (2H, m), 3.79 (2H, t, J=11.8 Hz), 7.66-7.76 (2H, m), 7.83 (1H, dd, J=1.8, 8.7 Hz), 8.04-8.09 (1H, m), 8.18 (1H, d, J=8.8 Hz), 8.22-8.27 (1H, m), 8.53-8.56 (1H, m), 8.63 (2H, s), 8.99 (1H, br s), 11.03 (1H, br s).

reactant | N-(1-isobutoxyethoxy) 2-(6-{(naphthalene-2-sulfonyl)-[2-(2-oxopyrrolidin-1-yl)ethyl]amino}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide | C(C(C)C)OC(C)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(CCN1C(CCC1)=O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C32H40N6O6S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 3.5 ml | CO | CH4O
product | N-Hydroxy 2-(6-{(naphthalene-2-sulfonyl)-[2-(2-oxopyrrolidin-1-yl)ethyl]amino}-3-aza-bicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide | 18 mg, 11% | ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(CCN1C(CCC1)=O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C26H28N6O5S
